US04814332
1.50 g of p-(dimethylamino)benzaldehyde are added to a solution of 3.7 g of 1-amino-2-(p-methoxyphenyl)-3-(pivaloylmethyl)imidazolium bromide in 25 ml of glacial acetic acid. The mixture is stirred at room temperature for 15 hours. Then, 20 ml of ether are added thereto and, after an additional 3 hours, the product is removed by filtration. After recrystallization from ethanol/ether, there is obtained 1-[[p-(dimethylamino)benzylidene]amino]-2-(p-methoxyphenyl)-3-(pivaloylmethyl)imidazolium bromide of melting point 241°.

reactant | p-(dimethylamino)benzaldehyde | 1.50 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | 1-amino-2-(p-methoxyphenyl)-3-(pivaloylmethyl)imidazolium bromide | 3.7 g | [Br-].N[N+]1=C(N(C=C1)CC(C(C)(C)C)=O)C1=CC=C(C=C1)OC
reactant | ether | 20 ml | CCOCC | C4H10O
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 1-[[p-(dimethylamino)benzylidene]amino]-2-(p-methoxyphenyl)-3-(pivaloylmethyl)imidazolium bromide | [Br-].CN(C1=CC=C(C=N[N+]2=C(N(C=C2)CC(C(C)(C)C)=O)C2=CC=C(C=C2)OC)C=C1)C | InChI=1S/C25H31N4O2.BrH/c1-25(2,3)23(30)18-28-15-16-29(24(28)20-9-13-22(31-6)14-10-20)26-17-19-7-11-21(12-8-19)27(4)5;/h7-17H,18H2,1-6H3;1H/q+1;/p-1
